US05866592
N-t-Butyloxycarbonyl-β-alanine t-butyl ester (2.0 g) was isopropylated by the same procedure as in Comparative Example 4-(1) using isopropyl iodide (1.8 ml) to yield an oil of N-t-butyloxycarbonyl-α-isopropyl-β-alanine t-butyl ester (990 mg, 42%).

reactant | N-t-Butyloxycarbonyl-β-alanine t-butyl ester | 2.0 g | C(C)(C)(C)OC(CCNC(=O)OC(C)(C)C)=O | C12H23NO4
reactant | isopropyl iodide | 1.8 ml | C(C)(C)I | C3H7I
product | N-t-butyloxycarbonyl-α-isopropyl-β-alanine t-butyl ester | 990 mg, 42% | C(C)(C)(C)OC(C(CNC(=O)OC(C)(C)C)C(C)C)=O | C15H29NO4
